US06596719B1
48 ml 2-methoxy-phenol (guajacol) was slowly added to a stirred suspension of 70.8 g potassium carbonate in 480 ml acetone followed by heating to 45° C. Then 63.2 ml dimethylchloromalonate in 50 ml acetone was added within 20 min. The reaction mixture was heated to reflux for 16 h. The solvent was evaporated under reduced pressure, the residue taken into water and extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and evaporated. The oily product was crystallized from methyl-tert.-butyl-ether. 86 g dimethyl-(o-methoxyphenoxy)malonate was obtained.

reactant | 2-methoxy-phenol | 48 ml | COC1=C(C=CC=C1)O | C7H8O2
reactant | potassium carbonate | 70.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylchloromalonate | 63.2 ml | COC(C(C(=O)OC)Cl)=O | C5H7ClO4
solvent | acetone | 480 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | dimethyl-(o-methoxyphenoxy)malonate | 86 g | COC(C(C(=O)OC)OC1=C(C=CC=C1)OC)=O | C12H14O6
